US05436229
A) N-CBz-trans-4-(3-pyridyloxy)-D-Proline Methyl Ester
The title compound was prepared from 3-hydroxy pyridine and N-Cbz-cis-4-hydroxy-D-proline methyl ester by substantially following the procedure used in the preparation of N-Cbz-trans-4-(2-naphthyloxy)-D-proline methyl ester, Example 6, Steps A and B.

reactant | 3-hydroxy pyridine | OC=1C=NC=CC1 | C5H5NO
reactant | N-Cbz-cis-4-hydroxy-D-proline methyl ester | COC([C@@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1)=O | C14H17NO5
reactant | N-Cbz-trans-4-(2-naphthyloxy)-D-proline methyl ester | COC([C@@H]1N(C[C@H](C1)OC1=CC2=CC=CC=C2C=C1)C(=O)OCC1=CC=CC=C1)=O | C24H23NO5
product | N-CBz-trans-4-(3-pyridyloxy)-D-Proline Methyl Ester | COC([C@@H]1N(C[C@H](C1)OC=1C=NC=CC1)C(=O)OCC1=CC=CC=C1)=O | C19H20N2O5
